US04701459
1,3-Dihydro-7-(1-pyrrolidinyl)-2H-imidazo-[4,5-b]quinolin-2-one
This compound, m.p. >300° C. (obtained as a dimethylformamide solvate by crystallization from methanol-dimethylformamide), was prepared analogous to Example 4 from 5-[[2-nitro-5-(1-pyrrolidinyl)phenyl]methylene]-2,4-imidazolidinedione.

reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | 5-[[2-nitro-5-(1-pyrrolidinyl)phenyl]methylene]-2,4-imidazolidinedione | [N+](=O)([O-])C1=C(C=C(C=C1)N1CCCC1)C=C1C(NC(N1)=O)=O | C14H14N4O4
solvent | methanol dimethylformamide | CO.CN(C=O)C
product | 1,3-Dihydro-7-(1-pyrrolidinyl)-2H-imidazo-[4,5-b]quinolin-2-one | N1(CCCC1)C1=CC=2C=C3C(=NC2C=C1)NC(N3)=O | C14H14N4O
